US08703810B2
To a solution of 1,4-dimethoxybenzene (2.62 g, 19 mmol) in PPA (10 mL) at room temperature, 2-(3-fluoro-5-methoxyphenyl)acetic acid (2.33 g, 12.6 mmol) was added. The mixture was stirred at 80° C. for 3 h, cooled to room temperature, and then H2O (100 mL) was added. After extraction with ethyl acetate (3×50 mL), the organic phase was dried over Na2SO4, concentrated, and the crude was purified by silica-gel column chromatography (ethyl acetate/petroleum ether=1/4) to give 1.0 g of 1-(2,5-dimethoxyphenyl)-2-(3-fluoro-5-methoxyphenyl)ethanone. LCMS: 305.1 [M+H]+.

reactant | 1,4-dimethoxybenzene | 19 mmol, 2.62 g | COC1=CC=C(C=C1)OC | C8H10O2
reactant | 2-(3-fluoro-5-methoxyphenyl)acetic acid | 12.6 mmol, 2.33 g | FC=1C=C(C=C(C1)OC)CC(=O)O | C9H9FO3
solvent | H2O | 100 mL | O | H2O
product | 1-(2,5-dimethoxyphenyl)-2-(3-fluoro-5-methoxyphenyl)ethanone | 1.0 g | COC1=C(C=C(C=C1)OC)C(CC1=CC(=CC(=C1)OC)F)=O | C17H17FO4
